US05843952
4-[(Dimethylamino)methylene-3,4-dihydro-1H-1-benzazepine-2.5-dione
A mixture of 0.250 g (1.43 mmol) of 3,4-dihydro-1H-1benzazepine-2,5-dione and 5.5 ml (4.93 g, 41.5 mmol) of N,N-dimethylformamide, dimethylacetal is heated at 90° C. for 1.5 hour. The mixture is cooled, diluted with diethylether and filtered. The solid is washed well with diethylether and dried to give 0.26 g of tan crystals, m.p. 203°-205° C.

reactant | 3,4-dihydro-1H-1benzazepine-2,5-dione | 1.43 mmol, 0.250 g | N1C(CCC(C2=C1C=CC=C2)=O)=O | C10H9NO2
reactant | N,N-dimethylformamide | 41.5 mmol, 5.5 ml, 4.93 g | CN(C=O)C | C3H7NO
solvent | diethylether | C(C)OCC | C4H10O
product | (Dimethylamino)methylene-3,4-dihydro-1H-1-benzazepine-2.5-dione | 0.26 g | CN(C)C=C1C(NC2=C(C(C1)=O)C=CC=C2)=O | C13H14N2O2
